data/pmechdb/original/mc_train_fold0/raw/train.txt
C=C(CC1(C=C[C:22](=[O:23])[CH:21]=[CH:20]1)CCC[C:10](=[C:11]2N3CCCC3=N[N:12]2C4=C(C(=C(C(=C4F)F)F)F)F)O)Br.[B-](F)(F)(F)F.CC[NH+](CC)CC>>C=C(CC12CCC[C:10]([CH:20]1[CH:21]=[C:22](C=C2)[O-:23])([C:11]3=[N+:12](N=C4N3CCC4)C5=C(C(=C(C(=C5F)F)F)F)F)O)Br.[B-](F)(F)(F)F.CC[NH+](CC)CC 10,11=10,20;12=11;22,23=23;20,21=21,22
CC1CC(C([CH:20](C1)[O:21]S(=O)(=O)C2=CC=C(C=C2)C)OC(=[O:10])C)C3CCCCC3>>CC1CC(C2[CH:20](C1)[O+:10]=C(O2)C)C3CCCCC3.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O+:21]=C1CC(CC=CC(=C1)C)(C)C.C(=O)(C(=O)[O-:10])O.O>>[H:20][O:10]C(=O)C(=O)O.CC1=CC(=[O:21])CC(CC=C1)(C)C.O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C(CCO)CC=[O:10]>>[H:20][O+:10]=CCCCCO.OS(=O)(=O)[O-:21] 10=20;20,21=21
C[CH:20](C1=CC=CC=C1)[Br:21].[C-:10]#N>>C[CH:20]([C:10]#N)C1=CC=CC=C1.[Br-:21] 10=20;20,21=21
[H:20][OH:21].CC(C1CCCC1=O)[O-:10]>>[H:20][O:10]C(C)C1CCCC1=O.[OH-:21] 10=20;20,21=21
[H:20][CH:21](C(C1C(OC(O1)(C)C)C(C(OC(=O)C(F)(F)F)SC)OCC2=CC=CC=C2)OCC3=CC=CC=C3)[S+](C)OC(=O)C(F)(F)F.C(=O)(C(F)(F)F)[O-:10].C(=O)(C(F)(F)F)O>>[H:20][O:10]C(=O)C(F)(F)F.CC1(OC(C(O1)C(C(OC(=O)C(F)(F)F)SC)OCC2=CC=CC=C2)C([CH-:21][S+](C)OC(=O)C(F)(F)F)OCC3=CC=CC=C3)C.C(=O)(C(F)(F)F)O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CCOC(=O)C(CC(=O)C1=CC=CO1)(NNC2=CC(=CC=C2)C#N)[OH:10].CCO>>[H:20][OH+:10]C(CC(=O)C1=CC=CO1)(C(=O)OCC)NNC2=CC(=CC=C2)C#N.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CCO 10=20;20,21=21
CCNC(=[N:10]C)O[C:20](=[O:21])CNC(=O)OC(C)(C)C>>CCNC1=[N+:10]([C:20](O1)(CNC(=O)OC(C)(C)C)[O-:21])C 10=20;20,21=21
[H:20][OH+:21]C1(CCC(C1)CC)C.[OH2:10]>>[H:20][OH2+:10].CCC1CCC(C1)(C)[OH:21] 10=20;20,21=21
CC(=[O+:11][Si-:10](C)(C)(C)OS(=O)(=O)C)N>>CC(=[O:11])N.C[Si:10](C)(C)OS(=O)(=O)C 10,11=11
CN1CCC23[CH:20]4[CH-:10]CCC2(C1CC5=C3C(=C(C=C5)OC)[O:21]4)O.N#N.O.[K+]>>CN1CCC23[CH:20]=[CH:10]CCC2(C1CC4=C3C(=C(C=C4)OC)[O-:21])O.N#N.O.[K+] 10=20;20,21=21
[CH:11]1=[CH:10]OC=C1[N+](=O)[O-].[Br:20][Br:21]>>C1=C([CH+:11][CH:10](O1)[Br:20])[N+](=O)[O-].[Br-:21] 10,11=10,20;20,21=21
[Li:10][O+:11]=C(CCC)N(C)CCC.[BH-](CC)(CC)CC.[AlH4-]>>[Li+:10].CCCC(=[O:11])N(C)CCC.[BH-](CC)(CC)CC.[AlH4-] 10,11=11
[H:20][OH:21].[Li]OC(C)(C1=CC=CC=C1)[N:10](C)OC>>[H:20][N+:10](C)(C(C)(C1=CC=CC=C1)O[Li])OC.[OH-:21] 10=20;20,21=21
CC(=CCCC(=CCCC(=C[CH2:10][O:11]P1(=O)O[Mg]OP(=O)(O1)[O-])C)C)C.O>>CC(=CCCC(=CCCC(=C[CH2+:10])C)C)C.[O-:11]P1(=O)O[Mg]OP(=O)(O1)[O-].O 10,11=11
CC(C)(C)[Si:20](C)(C)Cl.CN(C)C1=CC=[N:10]C=C1.CC(C1=C2C=CC=CC2=CC=C1)O>>CC(C)(C)[Si-:20](C)(C)([N+:10]1=CC=C(C=C1)N(C)C)Cl.CC(C1=C2C=CC=CC2=CC=C1)O 10=20,
CCCCCC(C[C:10]#[C:11]CCC)C[N+:21](=[CH2:20])CC1=CC=CC=C1>>CCCCCC1C[C:10](=[C+:11]CCC)[CH2:20][N:21](C1)CC2=CC=CC=C2 10,11=10,20;20,21=21
[H:20][I:21].[P:10](I)(I)I>>[H:20][P+:10](I)(I)I.[I-:21] 10=20;20,21=21
CC1C[CH+:20]C(CO1)CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C(C)(C)C.C[O+]1CCO[Ti-2]1(Cl)(Cl)(Cl)[Cl:10]>>CC1C[CH:20](C(CO1)CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C(C)(C)C)[Cl+:10][Ti-2]4(OCC[O+]4C)(Cl)(Cl)Cl 10=20,
C[O+](C)[Si:20](C)(C)C.[Cl-:10]>>C[O+](C)[Si-:20](C)(C)(C)[Cl:10] 10=20,
C[Si-:10](C)(C)([O+:11]=C)I>>C[Si:10](C)(C)I.C=[O:11] 10,11=11
CC[O:10]C(C1=CC=CC=C1)N(CC2=CC=CC=C2)C(=O)OCC.CC[Al:20](Cl)Cl.C[Si](C)(C)CC#C>>CCOC(=O)N(CC1=CC=CC=C1)C(C2=CC=CC=C2)[O+:10](CC)[Al-:20](CC)(Cl)Cl.C[Si](C)(C)CC#C 10=20,
[CH:10]1=[CH:11][CH:12]=[C:13](C=C1)O.[Br:20][Br:21]>>C1=C[C+:13]([CH:12]=[CH:11][CH:10]1[Br:20])O.[Br-:21] 10,11=10,20;20,21=21;12,13=11,12
[H:20][CH:21](C#N)C(C)(C)O.CC[O-:10]>>[H:20][O:10]CC.CC(C)([CH-:21]C#N)O 10=20;20,21=21
CCCC[Sn-:11](CCCC)(CCCC)([CH2:10][CH+:20]CC(C(=CC1=CSC(=N1)C)C)O[Ti](OC(C)C)(OC(C)C)OC(C)C)OC(C)C>>CCCC[Sn:11](CCCC)(CCCC)OC(C)C.CC1=NC(=CS1)C=C(C)C(C[CH:20]=[CH2:10])O[Ti](OC(C)C)(OC(C)C)OC(C)C 10,11=10,20
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH:20](C)[O-:10]>>C[CH:20]=[O:10].CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OC(C)(C4=CC=CC=C4)C(=O)C5CCCC6=C(C5=O)C=CC=C6.[OH-:10]>>[H:20][OH:10].CC(C1=CC=CC=C1)(C(=O)C2CCCC3=C(C2=O)C=CC=C3)OP(C4=CC=CC=C4)(C5=CC=CC=C5)(C6=CC=CC=C6)[O-:21] 10=20;20,21=21
[H:20][CH2:21][C:22](=[O+:23][Li-][N:10](C(C)C)C(C)C)C(C)CC(C)CN=[N+]=[N-]>>[H:20][N+:10]([Li-][O:23][C:22](=[CH2:21])C(C)CC(C)CN=[N+]=[N-])(C(C)C)C(C)C 10=20;22,23=23;20,21=21,22
[H:20][O:21]CC#N.CC[O-:10]>>[H:20][O:10]CC.C(C#N)[O-:21] 10=20;20,21=21
C[NH:10][S:20](=[O:21])C>>C[NH+:10]=[S:20](C)[O-:21] 10=20;20,21=21
C[CH+:20]C.[CH:10]1=[CH:11]OC(=C1)C#N>>C[CH:20](C)[CH:10]1C=C(O[CH+:11]1)C#N 10,11=10,20
[B-:10]([O+](C)C1=C2C3=C(CC4C5(C3(CCN4CC6CC6)C(O2)C(=O)CC5)O)C=C1)(Br)(Br)[Br:11]>>[B:10]([O+](C)C1=C2C3=C(CC4C5(C3(CCN4CC6CC6)C(O2)C(=O)CC5)O)C=C1)(Br)Br.[Br-:11] 10,11=11
CC1=C[C:11](=[CH:10]C(=C1)O)[OH:12].CC(=C[CH2:20][OH2+:21])C.O>>CC1=C[C:11](=[OH+:12])[CH:10](C(=C1)O)[CH2:20]C=C(C)C.[OH2:21].O 10,11=10,20;20,21=21;12=11
[CH:11]1=[CH:10]OC=C1[N+](=O)[O-].O[S+:20](=O)=O>>C1=C([CH+:11][CH:10](O1)[S:20](=O)(=O)O)[N+](=O)[O-] 10,11=10,20
C[C+:20]=O.[CH:10]1=[CH:11]OC(=C1)S(=O)(=O)O>>C[C:20](=O)[CH:10]1C=C(O[CH+:11]1)S(=O)(=O)O 10,11=10,20
